US07615642B2
2-tert-Butyl-5-(isoxazolidin-2-ylsulfonyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (61 mg, 0.17 mmol), isoxazolidine hydrochloride (44 mg, 0.40 mmol), DIPEA (0.2 mL, 149 mg, 1.15 mmol) and DMAP (50 mg, 0.41 mmol) in MeCN (5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 24 mg (36%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.43-1.61 (m, 4 H), 1.63 (s, 9 H), 2.02-2.19 (m, 2 H), 2.25-2.42 (m, 1 H), 3.29-3.38 (m, 2 H), 3.64-3.73 (m, 2 H), 3.86 (t, J=7.13 Hz, 2 H), 3.88-3.96 (m, 2 H), 4.49 (d, J=7.42 Hz, 2 H), 7.98 (d, J=1.56 Hz, 1 H), 7.99 (s, 1 H), 8.24 (d, J=0.78 Hz, 1 H); MS (ESI) (M+H)+=408.0; Anal. Calcd for C20H29N3O4S+1.20 TFA+0.20 EtOAc (561.99): C, 49.58; H, 5.70; N, 7.48. Found: C, 49.74; H, 5.53; N, 7.46.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.17 mmol, 61 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | isoxazolidine hydrochloride | 0.40 mmol, 44 mg | Cl.O1NCCC1
reactant | DIPEA | 1.15 mmol, 0.2 mL, 149 mg | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.41 mmol, 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-(isoxazolidin-2-ylsulfonyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | 24 mg, 36% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2OCCC2 | C20H29N3O4S
